US04416879
To a solution of 5-benzhydrylthio-1H-tetrazole (29 g) in tetrahydrofuran (145 ml) were added triethylamine (12.0 g) and 2-propynyl bromide (19.3 g) at room temperature. The resulting mixture was stirred for 2.5 hours at 40° to 45° C. The reaction mixture was filtered and the filtrate was evaporated. The residue was shaken with a mixture of ethyl acetate and water. The ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated. The residual oil (27.7 g) was subjected to column chromatography on silica gel, and eluted with a mixture of n-hexane, chloroform and ethyl acetate (5.5:4.5:0.5), to give 5-benzhydrylthio-2-(2-propynyl)-2H-tetrazole (14.2 g), mp 85° to 86° C.

reactant | 5-benzhydrylthio-1H-tetrazole | 29 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)SC1=NN=NN1 | C14H12N4S
reactant | triethylamine | 12.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-propynyl bromide | 19.3 g | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 145 ml | O1CCCC1 | C4H8O
product | 5-benzhydrylthio-2-(2-propynyl)-2H-tetrazole | 14.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)SC=1N=NN(N1)CC#C | C17H14N4S
